US07741294B1
N-(3-Chloro-allyl)-2,2,2-trifluoro-acetamide
Trifluoroacetamide (10.44 g, 92.4 mmol) is dissolved in THF (30 mL). Sodium hydride (60% weight dispersion in mineral oil, 3.1 g, 77 mmol) is then added in small portions at room temperature while regulating the temperature of the reaction with a water bath. The mixture is stirred at room temperature for 5 min., after which E-1,3-dichloropropene (4.5 mL, 49.4 mmol) is added. After 2 min., the mixture thickened, and the reaction was heated to reflux for 45 min. The mixture is then cooled to room temperature, and saturated aqueous ammonium chloride (20 mL) and water (40 mL) are added. The mixture is transferred to a separatory funnel and extracted with ether (2×400 mL). The combined organic layers were dried (MgSO4) and concentrated under reduced pressure to obtained a colorless oil that was used for the next step.

reactant | Trifluoroacetamide | 92.4 mmol, 10.44 g | FC(C(=O)N)(F)F | C2H2F3NO
reactant | Sodium hydride | 77 mmol, 3.1 g | [H-].[Na+]
reactant | E-1,3-dichloropropene | 49.4 mmol, 4.5 mL | Cl\C=C\CCl | C3H4Cl2
reactant | ammonium chloride | 20 mL | [Cl-].[NH4+]
solvent | THF | 30 mL | C1CCOC1 | C4H8O
solvent | water | 40 mL | O | H2O
product | N-(3-Chloro-allyl)-2,2,2-trifluoro-acetamide | ClC=CCNC(C(F)(F)F)=O | C5H5ClF3NO
